US04252803
(iii) 3-[3-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)propyl]-1H-indole-5-carbonitrile
2-[3-[5-Bromo-1H-indol-3-yl]propyl]-1H-isoindole-1,3-(2H)-dione (8.43 g) and cuprous cyanide (3.2 g) were added to N-methyl-2-pyrrolidinone (20 ml) under a nitrogen atmosphere. The stirred mixture was heated to reflux over 25 min. and maintained at reflux for 45 min. It was then cooled to room temperature and poured onto ice-water (300 g). Concentrated aqueous ammonia (40 ml) and ethyl acetate (300 ml) were added and the mixture was stirred vigorously for 20 min. The brown organic layer was separated from the blue aqueous phase. The aqueous phase was then extracted with ethyl acetate (3×100 ml). The combined organic solutions were washed with water (3×100 ml) until the washings were colourless, dried (MgSO4) and evaporated in vacuo to afford a fawn solid (6.85 g), which was recrystallised from a mixture of isopropyl acetate (300 ml) and 2-propanol (100 ml) to afford the title compound as a pale fawn solid (5.2 g) m.p. 193°-195° C.

reactant | 2-[3-[5-Bromo-1H-indol-3-yl]propyl]-1H-isoindole-1,3-(2H)-dione | 8.43 g | BrC=1C=C2C(=CNC2=CC1)CCCN1C(C2=CC=CC=C2C1=O)=O | C19H15BrN2O2
reactant | N-methyl-2-pyrrolidinone | 20 ml | CN1C(CCC1)=O | C5H9NO
reactant | ammonia | 40 ml | N | H3N
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 3-[3-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)propyl]-1H-indole-5-carbonitrile | 6.85 g | O=C1N(C(C2=CC=CC=C12)=O)CCCC1=CNC2=CC=C(C=C12)C#N | C20H15N3O2
